US04868198
0.92 g (0.04 mol) of sodium is dissolved in 25 ml of ethanol, 5.48 g (0.04 mol) of 5-trifluoromethylisoxazole are added at 0° C. and the mixture is stirred at room temperature for 15 minutes. 16.16 g (0.04 mol) of N-(2,6-dichloro-4-trifluoromethylphenyl)-trifluoroacetohydrazide bromide are added dropwise to this mixture, while cooling, and the mixtureis subsequently stirred at 25° C. for a further 10 hours. After the sodium bromide which has precipitated out is filtered off, the filtrate isconcentrated and the residue is separatad by column chromatography. 1.65 g (9.3% of theory) of 4-cyano-3,5-di(trifluoromethyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole of melting point 88° C.-92° C. are obtained.

reactant | sodium | 0.04 mol, 0.92 g | [Na] | Na
reactant | 5-trifluoromethylisoxazole | 0.04 mol, 5.48 g | FC(C1=CC=NO1)(F)F | C4H2F3NO
reactant | N-(2,6-dichloro-4-trifluoromethylphenyl)-trifluoroacetohydrazide bromide | 0.04 mol, 16.16 g | [Br-].ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N(N)C(C(F)(F)F)=O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-cyano-3,5-di(trifluoromethyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 1.65 g, 9.3% | C(#N)C=1C(=NN(C1C(F)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C13H2Cl2F9N3
